US08541588B2
[2-hydroxy-5-(trifluoromethyl)phenyl]boronic acid
To a suspension of 2-methoxy-5-(trifluoromethyl)phenylboronic acid (24.93 g, 0.1133 mol) in dichloromethane (150 mL) cooled to 0° C. was added dropwise boron tribromide (11.0 mL, 0.116 mol) over 30 minutes. After stirring for 5 hours, more boron tribromide (2.0 mL, 0.021 mol) was added. After stirring for 2 more hours, the reaction mixture was added to ice water and stirred for 20 minutes. The resulting white precipitate was filtered and washed with water to give a white solid that contained product. The layers of the filtrate were separated and extracted with dichloromethane (2×). The combined organics were dried over anhydrous magnesium sulfate, filtered, and concentrated to give a white solid which also contained product. It was determined by NMR that there was some methyl ether remaining, so all the material recovered was suspended in dichloromethane (100 mL) and cooled to 0° C. To this was added boron tribromide (7.0 mL, 0.074 mol) dropwise over 10 minutes and then boron tribromide (1M in dichloromethane, 11.0 mL, 0.0110 mol) dropwise over 10 minutes. After stirring for 5 hours, the reaction was complete as indicated by TLC. The reaction mixture was added to ice water, filtered, and washed with water to provide product (15.24 g, 65%) as a white solid. The layers of the filtrate were separated and extracted with dichloromethane (2×) and 4:1 dichloromethane:isopropyl alcohol. The combined organics were dried over anhydrous magnesium sulfate, filtered, and concentrated to give additional product (5.7 g, 24%) as a white solid.

reactant | 2-methoxy-5-(trifluoromethyl)phenylboronic acid | 0.1133 mol, 24.93 g | COC1=C(C=C(C=C1)C(F)(F)F)B(O)O | C8H8BF3O3
reactant | boron tribromide | 0.116 mol, 11.0 mL | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 0.021 mol, 2.0 mL | B(Br)(Br)Br | BBr3
reactant | methyl ether | COC | C2H6O
reactant | boron tribromide | 0.074 mol, 7.0 mL | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 0.0110 mol, 1M, 11.0 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | [2-hydroxy-5-(trifluoromethyl)phenyl]boronic acid | 15.24 g, 65% | OC1=C(C=C(C=C1)C(F)(F)F)B(O)O | C7H6BF3O3
